US04370329
8.3 g of 3,4,5-trimethoxybenzyl chloride and 3.8 g of N-(2-ethylphenyl)-piperazine and 3.5 g of K2CO3 are reacted and processed according to example 2. 6.5 g of N-(3,4,5-trimethoxy-benzyl)-N'-(2-ethylphenyl)-piperazine dihydrochloride is obtained.

reactant | 3,4,5-trimethoxybenzyl chloride | 8.3 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | N-(2-ethylphenyl)-piperazine | 3.8 g | C(C)C1=C(C=CC=C1)N1CCNCC1 | C12H18N2
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
product | N-(3,4,5-trimethoxy-benzyl)-N'-(2-ethylphenyl)-piperazine dihydrochloride | 6.5 g | Cl.Cl.COC=1C=C(CN2CCN(CC2)C2=C(C=CC=C2)CC)C=C(C1OC)OC | InChI=1S/C22H30N2O3.2ClH/c1-5-18-8-6-7-9-19(18)24-12-10-23(11-13-24)16-17-14-20(25-2)22(27-4)21(15-17)26-3;;/h6-9,14-15H,5,10-13,16H2,1-4H3;2*1H
